US08609804B2
A modification of the published procedures of H. Borns, Annalen der Chemie 1877, 187, 350 was used. A 300 mL round-bottom flask equipped with a reflux condenser, stirring bar, and gas inlet was charged with 1,4-dibromobenzene (118 g, 0.50 moles) and 30% fuming sulfuric acid (76 mL). The mixture was heated to 150° C. for 3 hours under nitrogen to give a clear solution. The solution was cooled to room temperature to give a solidified mass and transferred into a beaker with water to give a slurry. The slurry was treated with 50% sodium hydroxide solution (130 g) and diluted to 900 mL with water with heating to disperse the precipitated solids. The mixture was cooled to room temperature and the solids collected by vacuum filtration under a rubber dam. The solids were washed with two times with isopropanol (200 mL) and air dried on the filter then dried under vacuum at 100° C. to give 159 g (93% crude yield). The product was recrystallized from ethanol/water (4:1) and dried under vacuum at 150° C. to give 146 g (86% yield) of 2,5-dibromobenzenesulfonic acid, sodium salt. 1H NMR (DMSO-d6): 7.42 (dd, 8.4, 2.6 Hz, 1H), 7.53 (d, 8.4 Hz, 1H), 8.01 (d, 2.6 Hz, 1H).

reactant | 1,4-dibromobenzene | 0.50 moles, 118 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | sulfuric acid | 76 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 130 g | [OH-].[Na+]
reactant | sodium | [Na] | Na
solvent | water | O | H2O
product | 2,5-dibromobenzenesulfonic acid | 146 g, 86% yield | BrC1=C(C=C(C=C1)Br)S(=O)(=O)O | C6H4Br2O3S
